US04941909
3.0 g of 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoic acid are heated at reflux temperature for 3 hours in 20 ml of benzene and 2.9 ml of thionyl chloride together with 2 drops of dimethylformamide. The reaction mixture is subsequently evaporated to dryness and dissolved in 20 ml of dioxan. This solution, which consists mainly of the acid chloride of the above-mentioned benzoic acid and the solvent, is added dropwise to a solution of 0.86 g of 3-thietanol and 1.0 g of pyridine in 10 ml of dioxan. The reaction mixture is then stirred at room temperature for 2.5 hours, treated with 400 ml of water and extracted twice with 400 ml of ethyl acetate each time. The combined organic phases are washed twice with 200 ml of 1N hydrochloric acid each time and once with 200 ml of saturated sodium chloride solution, dried over anhydrous sodium sulphate and evaporated. The residue is purified by chromatography on silica gel with ethyl acetate/n-hexane (2:3). In this manner there is obtained thietan-3-yl 2-chloro-5-[3,6-dihydro-2 6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate which can be recrystallized from ethyl acetate/n-hexane; m.p. 121°-123° C.

reactant | 2-chloro-5-[3,6-dihydro-2,6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoic acid | 3.0 g | ClC1=C(C(=O)O)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C13H7ClF4N2O4
reactant | thionyl chloride | 2.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | thietan-3-yl 2-chloro-5-[3,6-dihydro-2 6-dioxo-3-methyl-4-trifluoromethyl-1(2H)-pyrimidinyl]-4-fluorobenzoate | ClC1=C(C(=O)OC2CSC2)C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O | C16H11ClF4N2O4S
